US05998592
To a mixture of 2,5-dichloro-4-fluorosulphonylaniline (2 parts) and an acetic/propionic acid mixture (15 parts, 86/14 vol/vol), stirring at 0-5° C., was added dropwise nitrosylsulphuric acid solution (5 parts). The mixture was stirred at this temperature for a further 15 minutes. The diazo solution was added slowly to a mixture of N-ethyl-N-(2-(3-cyanopropoxycarbonyl)ethyl)-3-toluidine (2.6 parts), methanol (50 parts), water (20 parts) and sulphamic acid (0.5 part), stirring at 0-5° C. After stirring for 3 hours at this temperature, the product was isolated by filtration, washed with water and dried at 50° C. to yield 3-methyl-4-(2,5-dichloro-4-fluorosulphonylphenylazo)-N-ethyl-N-(2-(3-cyanopropoxycarbonyl)ethyl)aniline (2.6 parts). When applied to polyester materials from an aqueous dispersion, the dye (λmax=515 nm) gives bluish-red shades with excellent light fastness and excellent fastness to wet treatments.

reactant | 2,5-dichloro-4-fluorosulphonylaniline | ClC1=C(N)C=C(C(=C1)S(=O)(=O)F)Cl | C6H4Cl2FNO2S
reactant | acetic propionic acid | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C.C(CC)(=O)O
reactant | nitrosylsulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | N-ethyl-N-(2-(3-cyanopropoxycarbonyl)ethyl)-3-toluidine | C(C)N(C1=CC(=CC=C1)C)CCC(=O)OCCCC#N | C16H22N2O2
reactant | sulphamic acid | S(N)(O)(=O)=O | H3NO3S
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-methyl-4-(2,5-dichloro-4-fluorosulphonylphenylazo)-N-ethyl-N-(2-(3-cyanopropoxycarbonyl)ethyl)aniline | CC=1C=C(N(CCC(=O)OCCCC#N)CC)C=CC1N=NC1=C(C=C(C(=C1)Cl)S(=O)(=O)F)Cl | C22H23Cl2FN4O4S
